US04070366
Preparation of 2,4-Dimethyl-3-acetyl-5-isopropyl-pyrrole
Anhydrous stannous bromide (5g) was stirred to solution in 20 ml of hydrogen bromide in acetic acid (30-32 %). 2,4-Dimethyl-3-acetyl-pyrrole (548 mg) was added and the mixture was warmed to dissolve this, then cooled to 30° C. Acetone(0.6 ml) was added and the solution was stirred at 35° C. for 21/2 hrs then poured into water at 10° C. The product was separated and washed with dilute hydrochloric acid then with water. It formed colourless micro-prisms (549 mg. 77%), m.p. 166°-167° C. or 173-174.5° C. after changing to cubes at about 136° C. For analysis it was recrystallized from aqueous ethanol as prismatic rods, m.p. 172° C.

reactant | 2,4-Dimethyl-3-acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | Acetone | 0.6 ml | CC(=O)C | C3H6O
reactant | water | O | H2O
solvent | hydrogen bromide | 20 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-Dimethyl-3-acetyl-5-isopropyl-pyrrole | CC=1NC(=C(C1C(C)=O)C)C(C)C | C11H17NO
